US07968720B2
3-(4-Chloro-3-formyl-phenyl)-N-methyl-propionamide
MnO2 (10.6 g, 110 mmol) was added to a sol. of 3-(4-chloro-3-hydroxymethyl-phenyl)-N-methyl-propionamide (2.50 g, 11.0 mmol) in CH3CN (223 mL). The mixture was stirred for 1 h at rt. The mixture was filtered over celite and washed with CH3CN and CH2Cl2. The filtrate was evaporated under reduced pressure, and the residue was dried under high vacuum to yield the crude title compound (2.30 g, 93%) that was used without further purification. LC-MS: tR=0.76 min; ES+: 267.30.

reactant | 3-(4-chloro-3-hydroxymethyl-phenyl)-N-methyl-propionamide | 11.0 mmol, 2.50 g | ClC1=C(C=C(C=C1)CCC(=O)NC)CO | C11H14ClNO2
solvent | CH3CN | 223 mL | CC#N | C2H3N
catalyst | MnO2 | 110 mmol, 10.6 g | O=[Mn]=O
product | 3-(4-Chloro-3-formyl-phenyl)-N-methyl-propionamide | 2.30 g, 93% | ClC1=C(C=C(C=C1)CCC(=O)NC)C=O | C11H12ClNO2
